US08981085B2
A mixture of trans-benzyl 4-cyclopropyl-3-(diethoxyphosphorylamino)piperidine-1-carboxylate (1.84 g, 4.48 mmol) and 10% Pd/C (0.48 g, 0.45 mmol) in methanol (30 mL) was charged with 1 atmosphere hydrogen and stirred at room temperature for 1 hour. The catalyst was removed by filtration and washed with methanol (20 mL). The filtrate was concentrated in vacuo to give diethyl trans-4-cyclopropylpiperidin-3-ylphosphoramidate (1.24 g, 100%) as an oil.

reactant | trans-benzyl 4-cyclopropyl-3-(diethoxyphosphorylamino)piperidine-1-carboxylate | 4.48 mmol, 1.84 g | C1(CC1)[C@H]1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)NP(=O)(OCC)OCC | C20H31N2O5P
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | 0.45 mmol, 0.48 g | [Pd] | Pd
product | diethyl trans-4-cyclopropylpiperidin-3-ylphosphoramidate | 1.24 g, 100% | C1(CC1)[C@H]1[C@@H](CNCC1)NP(OCC)(OCC)=O | C12H25N2O3P
